US07250442B2
3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-phenyl-1,3-dihydro-indol-2-one
Combine 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one (0.816 g, 1.36 mmol), phenylboronic acid (0.330 g, 2.71 mmol), copper (II) acetate (0.25 g, 1.36 mmol), triethylamine (0.38 mL, 2.71 mmol), 4 angstrom molecular sieves, and dichloromethane (20 mL). Stir at room temperature for 72 h under ambient atmosphere. Filter the reaction through Celite. Elute through a column of silica gel with 70% dichloromethane in hexanes and concentrate. Dissolve the resulting compound in (0.446 g, 0.655 mmol), Add a solution of tetrabutylammonium fluoride (1.0 M) in THF (1.64 mL). Stir for 1 h. Add 1N aqueous HCl (10 mL), water (40 mL), and ethyl acetate (50 mL). Separate the layers, and concentrate the organic layer in vacuo. Chromatograph on silica gel eluting with ethyl acetate to give 0.236 g (39%) of the title compound: mass spectrum (FAB): m/z=450(M+1); 1H NMR(DMSO-d6): δ8.24 (s, 2H), 7.58-7.54 (m, 2H), 7.48-7.41 (m, 3H), 7.32 (dd, 1H), 7.22 (td, 1H), 7.10 (td, 1H), 6.77 (d, 1H), 6.74 (s, 4H), 2.07 (s, 12H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 1.36 mmol, 0.816 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | phenylboronic acid | 2.71 mmol, 0.330 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 2.71 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (II) acetate | 1.36 mmol, 0.25 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-phenyl-1,3-dihydro-indol-2-one | 0.236 g, 39% | OC1=C(C=C(C=C1C)C1(C(N(C2=CC=CC=C12)C1=CC=CC=C1)=O)C1=CC(=C(C(=C1)C)O)C)C | C30H27NO3
